US08791114B2
3-(3,4-Dimethoxy-phenyl)-5,5-dimethyl-4,5-dihydro-1H-pyrazole.
A 100 mL round bottom flask equipped with a stir bar, Vigreux column and nitrogen inlet was charged with 1-(3,4-dimethoxy-phenyl)-3-methyl-but-2-en-1-one (1.4 g, 10 mmol), EtOH (40 mL) and hydrazine monohydrate (0.58 mL, 12 mmol). The mixture was heated at 80° C. for 2 h. LC-MS and TLC analysis showed consumption of SM. The solvent was evaporated under reduced pressure and trace hydrazine and EtOH was removed under high vacuum for 30 min. The material was used as in the next step. Amount obtained: 2.3 g, 10 mmol, 100% yield. LC-MS (ESI) m/e 235 (M+H). Step 3

reactant | 1-(3,4-dimethoxy-phenyl)-3-methyl-but-2-en-1-one | 10 mmol, 1.4 g | COC=1C=C(C=CC1OC)C(C=C(C)C)=O | C13H16O3
reactant | hydrazine monohydrate | 12 mmol, 0.58 mL | O.NN
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3-(3,4-Dimethoxy-phenyl)-5,5-dimethyl-4,5-dihydro-1H-pyrazole | 100% yield | COC=1C=C(C=CC1OC)C1=NNC(C1)(C)C | C13H18N2O2
